US08486940B2
1-(1H-benzo[d]imidazol-5-yl)-5-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)imidazolidin-2-one
The compound was synthesized as hydrochloride salt starting from 5-aminobenzimidazole (0.37 g, 2.78 mmol), di(1H-imidazol-1-yl)methanone (0.496 g, 3.06 mmol), TEA (1.16 mL, 8.34 mmol), aminomethyl-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)ketone hydrobromide (0.761 g, 2.78 mmol), TEA (0.775 mL, 5.56 mmol), PdC (10%, 0.02 g) as described in method 1.

reactant | 5-aminobenzimidazole | 2.78 mmol, 0.37 g | NC1=CC2=C(N=CN2)C=C1 | C7H7N3
reactant | di(1H-imidazol-1-yl)methanone | 3.06 mmol, 0.496 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | aminomethyl-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)ketone hydrobromide | 2.78 mmol, 0.761 g | Br.NCC(=O)C1=CC2=C(OCCO2)C=C1
product | 1-(1H-benzo[d]imidazol-5-yl)-5-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)imidazolidin-2-one | N1C=NC2=C1C=CC(=C2)N2C(NCC2C2=CC1=C(OCCO1)C=C2)=O | C18H16N4O3
